US04011230
As in Example 17, reaction of 3,4-dimethoxy-β-nitrostyrene with dimethylammonium dimethyldithiocarbamate in the presence of carbon disulfide gave 3,4-dimethoxy-α-(nitromethyl)-benzyl dimethyldithiocarbamate melting at 108° C.-110° C. after recrystallization without heating from acetone-methanol solution.

reactant | 3,4-dimethoxy-β-nitrostyrene | COC=1C=C(C=C[N+](=O)[O-])C=CC1OC | C10H11NO4
reactant | dimethylammonium dimethyldithiocarbamate | CN(C([S-])=S)C.C[NH2+]C
solvent | carbon disulfide | C(=S)=S | CS2
product | 3,4-dimethoxy-α-(nitromethyl)-benzyl dimethyldithiocarbamate | CN(C(SC(C1=CC(=C(C=C1)OC)OC)C[N+](=O)[O-])=S)C | C13H18N2O4S2
